US07585885B2
2-Methanesulfonyl-6-(methylpropylamino)-isonicotinic acid methyl ester
Add methylpropylamine (0.21 mL, 2.0 mmol) to a suspension of 2-chloro-6-methanesulfonyl-isonicotinic acid methyl ester (0.25 g, 1.0 mmol), palladium acetate (0.022 g, 0.1 mmol), racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.062 g, 0.1 mmol), and cesium carbonate (0.325 g, 1.0 mmol) in toluene (5 mL) at room temperature and stir 18 h at 80° C. Cool, filter through a filtering agent and purify (silica gel chromatography, eluting with 20:80 to 40:60 ethyl acetate:hexanes) to give the title compound (0.181 g, 63%).

reactant | methylpropylamine | 2.0 mmol, 0.21 mL | CNCCC | C4H11N
reactant | 2-chloro-6-methanesulfonyl-isonicotinic acid methyl ester | 1.0 mmol, 0.25 g | COC(C1=CC(=NC(=C1)S(=O)(=O)C)Cl)=O | C8H8ClNO4S
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.1 mmol, 0.062 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 1.0 mmol, 0.325 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.1 mmol, 0.022 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Methanesulfonyl-6-(methylpropylamino)-isonicotinic acid methyl ester | 0.181 g, 63% | COC(C1=CC(=NC(=C1)N(CCC)C)S(=O)(=O)C)=O | C12H18N2O4S
